Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Metastatic rectal ca to liver
 
Major Surgical or Invasive Procedure:
___ 
1. Left hepatic lobectomy.
2. Resection of lesion in segment 5.
3. Intraoperative ultrasound.

 
History of Present Illness:
Per Dr. ___ note as follows: ___ man 
with a history
of rectal cancer who is status post abdominoperineal resection.  
He also has a biopsy proven metastatic lesion in segment 5, and 
an abnormal process which is infiltrative around the left 
hepatic duct in segment 4.  This area also
lights up on PET as well as the metastatic lesion in segment 5.  
He also has a low-grade neuroendocrine tumor in the head of the 
pancreas which we will continue to observe and not resect during 
this procedure.

 
Past Medical History:
Illness: atrial flutter, hematuria, obesity, thrombophlebitis, 
hip replacement, thyroid cancer status, post surgery and 
radioactive iodine, hypertension, erectile dysfunction, back 
problems, atrial septal defect many years ago, gout.

PSHx: thyroid lobectomyin ___ for papillary cancer, hip  
replacement surgery and surgery for atrial septal defect in ___ 
 

Allergies: NKDA

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
VS: 98.1, 61, 109/46, 18, 97% RA
General: NAD, A+Ox3
Card: RRR
Lungs: CTA bilaterally, no respiratory distress
Abd: Mildly distended, no rebound or guarding, JP 
sero-sanguinous, ostomy large/protruding, sometimes prolapses, 
incision C/D/I
Extr: No CCE
Neuro: restarted on home dose lithium, had mental status changes 
on about POD 4

 
Pertinent Results:
Labs POD 1: ___
WBC-10.9*# RBC-4.10* Hgb-11.2* Hct-36.7* MCV-90 MCH-27.3 
MCHC-30.5* RDW-18.3* RDWSD-59.6* Plt ___ PTT-28.9 ___
Glucose-102* UreaN-10 Creat-1.1 Na-140 K-4.3 Cl-111* HCO3-23 
AnGap-10
ALT-62* AST-95* AlkPhos-132* TotBili-1.1
Calcium-10.8* Phos-3.2 Mg-1.7
.
___ Albumin-3.5 Calcium-14.0* Phos-2.1* Mg-1.9
___ Albumin-2.9* Calcium-13.4* Phos-1.9* Mg-1.9
___ Albumin-3.0* Calcium-11.8* Phos-2.6* Mg-1.9
___ Albumin-2.9* Calcium-10.0 Phos-3.0 Mg-1.7
___ Calcium-9.4 Phos-1.8* Mg-1.8
.
___ PTH-210*
___ 25VitD-<4*
___ Lithium-0.5
.
___ 04:10PM BLOOD IGG SUBCLASSES 1,2,3,4-Test      
IGG SUBCLASSES 1,2,3,4 
  Test                          Result              Reference 
Range/Units
IMMUNOGLOBULIN G SUBCLASS 1   ___ mg/dL
IMMUNOGLOBULIN G SUBCLASS 2   ___ mg/dL
IMMUNOGLOBULIN G SUBCLASS 3   42                  ___ mg/dL
IMMUNOGLOBULIN G SUBCLASS 4   10                  ___ mg/dL
IMMUNOGLOBULIN G, SERUM       ___ mg/dL
 
Labs at Discharge:  ___
WBC-5.8 RBC-3.54* Hgb-9.8* Hct-32.2* MCV-91 MCH-27.7 MCHC-30.4* 
RDW-18.2* RDWSD-60.6* Plt ___ PTT-24.5* ___
Glucose-108* UreaN-10 Creat-1.0 Na-146* K-3.6 Cl-118* HCO3-22 
AnGap-10
ALT-49* AST-34 AlkPhos-169* TotBili-0.4
Calcium-9.4 Phos-1.8* Mg-1.8

Culture Data:
                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      KLEBSIELLA PNEUMONIAE.    10,000-100,000 ORGANISMS/ML.. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA PNEUMONIAE
                             |   
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    32 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

___ Blood culture-pending
___ Blood culture-pending
 
Brief Hospital Course:
On ___, patient underwent left hepatic lobectomy, resection 
of lesion in segment 5 and intraoperative ultrasound for 
metastatic rectal CA to liver. Surgeon was Dr. ___. 
Please refer to operative note for complete details. A ___ 
___ drain placed to the right abdomen along the cut surface of 
the liver. 

On postop day 1, he was heplocked and diet was advanced to 
clears. Pain was well controlled with an epidural. Epidural and 
foley were removed on postop day 2. 

Patient became agitated and confused on postop day 3 for which a 
code purple was called. Olanzapine and haldol were given for 
agitation. He was pan cultured. UA was positive and urine 
culture had GNR. (pan sensitive Klebsiella) IV Ceftriaxone was 
started. He was also tachycardic and EKG demonstrated Afib. His 
home dose of metoprolol was resumed. Altered mental status with 
confusion persisted. Calcium was noted to be 13.5. IV fluid was 
given and an endocrine consult obtained. 

Recommendations were to continue aggressive IV hydration, 
Pamidronate and calcitonin x1, and hold Lithium which could 
contribute to hypercalcemia. It was thought that he had primary 
hyperparathyroidism. PTH was elevated to 210. Aggessive IV 
hydration continued. Lithium level was 1.0. Mental status 
improved but he became very agitated on ___ and another Code 
Purple was called and Haldol w restraints were required. Mental 
status improved. 

Calcium decreased daily to 10 by ___. On ___, he appeared to 
be alert/oriented but with questioning, it was clear that he 
still had altered mental status and was irritable. Psychiatry 
was consulted and felt that he was delirious. Recommendations 
were given for prn Haldol. He was given 1mg of IV Haldol with 
improvement. Endocrine recommended holding lithium until level 
was less than 11. On ___, lithium level was 0.4 and lithium 
was resumed. Psychiatry recommended having patient follow up 
with PCP at ___ Dr. ___ has assumed Lithium 
prescribing, and to have lithium level checked next week. 

Endocrine noted nearly undetectable Vit D level on ___ and 
felt that could contribute to hypercalcemia. The plan was to 
slowly replete the Vitamin D with ___ IU/day. He remained in 
the hospital an additional day for Q 12 hour calcium monitoring. 
Discharge calcium was 9.4. He was given phos repletion and sent 
home with one week of phos neutral with planned appointment with 
his endocrinologist on ___. Concern for low calcium, signs 
reviewed with patient and he is to have ___ services at home 
that also received notation of need for monitoring for 
hypocalcemia at home.

Of note, urine culture isolated Klebsiella pneumonia >100,000 
colonies. Ceftriaxone was continued for 3 days.  

By postop day 6, he was tolerating a regular diet, ambulating 
with supervision and having BMs (via ostomy). Of note, stoma was 
markedly prolapsed. Abdomen was non-distended. Incision was 
intact with staples without redness/bleeding. JP drain output 
was non bilious. LFTs had initially increased postop, but 
improved over hospital course. JP drain was removed prior to 
discharge.
The wound nurse was consulted for the stoma prolapse. She was 
able to reduce to about 2 inches, and he was given supplies to 
help maintain the reduction. He continued to have stool output.

The plan was to f/u on ___ with outpatient Endocrinologist for 
management of hyperparathyroidism. He was instructed to seek 
medical attention for s/o hyperparathyroidism.  
Surgical follow up with Dr ___ is arranged for ___.
Patient is ambulating, tolerating a regular diet, and mental 
status has cleared considerably. Blood cultures from ___ and 
___ were no growth to date at time of discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Amlodipine 5 mg PO DAILY 
3. Gabapentin 600 mg PO QAM 
4. Gabapentin 900 mg PO QPM 
5. Levothyroxine Sodium 200 mcg PO 6X/WEEK (___) 
6. Levothyroxine Sodium 300 mcg PO 1X/WEEK (___) 
7. Lisinopril 20 mg PO BID 
8. Lithium Carbonate 1200 mg PO QAM 
9. Metoprolol Succinate XL 25 mg PO DAILY 
10. Acetaminophen 650 mg PO Q6H:PRN pain 
11. Vitamin D ___ UNIT PO DAILY 
12. Viagra (sildenafil) 50 mg oral DAILY:PRN 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q8H:PRN mild to moderate pain 
Maximum 6 of the 325 mg tablets daily 
2. Allopurinol ___ mg PO DAILY 
3. Amlodipine 5 mg PO DAILY 
4. Gabapentin 600 mg PO QAM 
5. Gabapentin 900 mg PO QPM 
6. Levothyroxine Sodium 200 mcg PO 6X/WEEK (___) 
7. Levothyroxine Sodium 300 mcg PO 1X/WEEK (___) 
8. Lisinopril 20 mg PO BID 
9. Lithium Carbonate 1200 mg PO QAM 
10. Metoprolol Succinate XL 25 mg PO DAILY 
11. Vitamin D ___ UNIT PO DAILY 
12. Docusate Sodium 100 mg PO BID 
13. Phosphorus 250 mg PO BID 
RX *sod phos,di & mono-K phos mono [Phospha 250 Neutral] 250 mg 
1 tablet(s) by mouth twice a day Disp #*14 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
metastatic rectal ca to liver
Hypercalcemia
Hyperparathyroidism
Bipolar
Afib

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___ through Atrius

Please seek medical attention if you have any symptoms of 
hypocalcemia/low blood calcium level(tingling fingers, perioral 
numbness, facial twitching, muscle cramps, altered mental 
status).

You will be seeing the Endocrinologist Dr ___ at ___ 
___ on ___. It is essential that you follow 
up with this appointment due to the high calcium you had while 
hospitalized.

Please call Dr. ___ ___ if you have any of 
the following: fever, chills, nausea, vomiting, jaundice, 
bloated abdomen, incision or drain site appear red or have 
bleeding/drainage, constipation or diarrhea. 

No lifting more than pounds for the next six weeks

 
Followup Instructions:
___